US08247429B2
ethyl 9-[2-(acetylamino)ethyl]-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate
To a mixture of ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (50.0 mg, 0.174 mmol) and triethylamine (36.4 μL, 0.261 mmol) in tetrahydrofuran (2 mL) was added acetic anhydride (24.7 μL) under ice-cooling, and the mixture was stirred at room temperature for 30 min. Water (50 μL) was added, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) and recrystallization (diisopropyl ether) to give the title compound (32.1 mg, yield 56%).

reactant | ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.174 mmol, 50.0 mg | NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)C | C16H21N3O2
reactant | triethylamine | 0.261 mmol, 36.4 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 24.7 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 50 μL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | ethyl 9-[2-(acetylamino)ethyl]-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 32.1 mg, yield 56% | C(C)(=O)NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)C | C18H23N3O3
